US07517873B2
A solution of 0.050 g (0.00019 mole) of (rac)-9-allyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-65), 0.049 g (0.00019 mole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.047 g (0.00025 mole) of p-toluene-sulfonic acid monohydrate and 4.0 mL of 2-propanol was heated at 180 degrees for 2 hours in a microwave reactor. The reaction mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated sodium bicarbonate solution. The aqueous phases were extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (100:0-75:25) to give 0.047 g of (rac)-4-(9-allyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-65) as white solid. HRMS (ES+) m/z Calcd for C26H35N7O3+H [(M+H)+]: 494.2874. Found: 494.2878.

reactant | (rac)-9-allyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00019 mole, 0.050 g | C(C=C)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)Cl | C12H15ClN4O
reactant | 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.00019 mole, 0.049 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
reactant | p-toluene-sulfonic acid monohydrate | 0.00025 mole, 0.047 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | (rac)-4-(9-allyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.047 g | C(C=C)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C26H35N7O3
